US07585874B2
7-Ethynyl-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
The mixture was then poured into cold hydrochloric acid (1 M) and extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulphate and evaporated to leave a yellow oil. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 70:30) afforded 2-(5-methyl-3-phenyl-isoxazol-4-yl)-7-trimethylsilanylethynyl-imidazo[1,2-a]pyridine (86 mg, 82%) which was obtained as a yellow foam. MS: m/e=372.1 [M+H]+. Then 2-(5-methyl-3-phenyl-isoxazol-4-yl)-7-trimethylsilanylethynyl-imidazo[1,2-a]pyridine (81 mg, 0.22 mmol) was dissolved in methanol (1 mL), a spatula tip of potassium carbonate was added at 0° C. and the reaction mixture was stirred at room temperature for 2 h. The mixture was then poured into brine and extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulphate and evaporated to leave a brown oil. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 70:30) afforded the title compound (53 mg, 81%) which was obtained as a yellow foam. MS: m/e=300.3 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-7-trimethylsilanylethynyl-imidazo[1,2-a]pyridine | 0.22 mmol, 81 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)C#C[Si](C)(C)C)C1 | C22H21N3OSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 7-Ethynyl-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 53 mg, 81% | C(#C)C1=CC=2N(C=C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C19H13N3O
